US06849730B2
S-2-Pyridyl isonicotinothioate (2c)
Following a general procedure (Rao et al., J. Org. Chem. 2000, 65: 1084), to a suspension of isonicotinoyl chloride hydrochloride (4.45 g, 25.0 mmol) in CH2Cl2 (50 mL) was added triethylamine (7 mL, 50 mmol). The mixture was stirred for 5 min under argon. To the resulting solution was added 2-mercaptopyridine (2.77 g, 25.0 mmol) in portions over 5 min with stirring. After 1 h, water was added and the layers were separated. The organic layer was washed (2 N NaOH, then water), dried (Na2SO4) and concentrated to dryness. The solid residue was recrystallized from ethyl acetate/hexanes to afford brown crystals (4.21 g, 77%): mp 115° C.; 1H NMR δ 7.34-7.38 (m, 1H), 7.69-7.38 (m, 4H), 8.69 (m, 1H), 8.83 (m, 2H); 13C NMR δ 120.5, 124.2, 130.8, 137.5, 142.8, 150.1, 150.8, 151.1; HRMS (FAB) obsd 217.0426, calcd 217.0436 (M++H, C11H9N2OS). Anal. Calcd for C11H8N2OS: C, 61.09; H, 3.73; N, 12.95. Found: C, 60.97; H, 3.72; N, 12.95.

reactant | isonicotinoyl chloride hydrochloride | 25.0 mmol, 4.45 g | Cl.C(C1=CC=NC=C1)(=O)Cl
reactant | triethylamine | 50 mmol, 7 mL | C(C)N(CC)CC | C6H15N
reactant | 2-mercaptopyridine | 25.0 mmol, 2.77 g | SC1=NC=CC=C1 | C5H5NS
reactant | water | O | H2O
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | S-2-Pyridyl isonicotinothioate | 4.21 g, 77% | C(C1=CC=NC=C1)(SC1=NC=CC=C1)=O | C11H8N2OS
